US08802679B2
Azetidine hydrochloride (287 mg) was suspended in DMF (5 ml), and tert-butyl (2-{[3-(2-chloropyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (300 mg) and K2CO3 (849 mg) were added thereto, followed by stirring at 80° C. overnight. The reaction mixture was concentrated under reduced pressure, and then a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with CHCl3. The organic layer was dried over Na2SO4 and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/EtOAc). The product was dissolved in EtOH (4 ml), and 4 M hydrogen chloride/EtOAc (2 ml) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain N-[3-(2-azetidin-1-ylpyrimidin-5-yl)benzyl]-N-methylglycinamide dihydrochloride (295 mg).

reactant | Azetidine hydrochloride | 287 mg | Cl.N1CCC1
reactant | tert-butyl (2-{[3-(2-chloropyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 300 mg | ClC1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C19H23ClN4O3
reactant | K2CO3 | 849 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[3-(2-azetidin-1-ylpyrimidin-5-yl)benzyl]-N-methylglycinamide dihydrochloride | 295 mg | Cl.Cl.N1(CCC1)C1=NC=C(C=N1)C=1C=C(CN(C(CN)=O)C)C=CC1 | InChI=1S/C17H21N5O.2ClH/c1-21(16(23)9-18)12-13-4-2-5-14(8-13)15-10-19-17(20-11-15)22-6-3-7-22;;/h2,4-5,8,10-11H,3,6-7,9,12,18H2,1H3;2*1H
